US07641914B2
1) Preparation of 2,2,2-trifluoro-N-(2-hydroxy-1-hydroxymethylethyl)acetamide
4 g of 2-aminopropan-1,3-diol (43.9 mmol) were supplemented with 20 ml of tetrahydrofuran. The reaction mixture was then cooled to 0° C. on an ice bath and 5.8 ml of ethyl trifluoroacetate (48.3 mmol) were gradually added. This solution was stirred for 2 hours at room temperature.

reactant | 2-aminopropan-1,3-diol | 43.9 mmol, 4 g | NC(CO)CO | C3H9NO2
reactant | ethyl trifluoroacetate | 48.3 mmol, 5.8 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-N-(2-hydroxy-1-hydroxymethylethyl)acetamide | FC(C(=O)NC(CO)CO)(F)F | C5H8F3NO3
